US07361763B2
Step 1: Synthesis of 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine.
Into a 500 mL round bottomed flask were added 5-bromo-1H-pyrrolo[2,3-b]pyridine (10.11 g, 51.3 mmol) and 250 ml acetone. N-iodosuccinimide (NIS, 12.7 g, 56.4 mmol) was added, and the reaction mixture was stirred at room temperature for 1 hour. The precipitate was collected and washed with cold acetone to afford 12.2 g (74%) of the title compound as a tan powder. 1H-NMR (500 MHz, d6-DMSO) δ=12.35 (br.s, 1H), 8.29 (d, J=2.0 Hz, 1H), 7.84 (d, J=2.0 Hz 1H), 7.79 (s, 1H); MS: m/z 322.8/324.8 [MH+].

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 51.3 mmol, 10.11 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | N-iodosuccinimide | 56.4 mmol, 12.7 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine | 12.2 g, 74% | BrC=1C=C2C(=NC1)NC=C2I | C7H4BrIN2
